US07807709B2
N-Isopropyl-4-methoxy-3-(3-methoxy-propoxy)-N-{(3S,4S)-4-[(2-methyl-2-phenyl-propionylamino)-methyl]-pyrrolidin-3-ylmethyl}-benzamide
The title compound is prepared according to Scheme 6 as follows: The solution of (3R,4R)-3-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-4-[(2-methyl-2-phenyl-propionylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (227 mg, 0.319 mmol) in 4N HCl in dioxane (2 mL) is stirred for 6 hrs at room temperature. The volatiles are removed by freeze-drying to give the title compound as white solid. MS [M+H]+=540.2. tR (HPLC, Nucleosil C18HD column, 20-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 3.91 min.

reactant | (3R,4R)-3-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-4-[(2-methyl-2-phenyl-propionylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.319 mmol, 227 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CNC(C(C)(C1=CC=CC=C1)C)=O)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C | C36H53N3O7
solvent | HCl | 4N | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-Isopropyl-4-methoxy-3-(3-methoxy-propoxy)-N-{(3S,4S)-4-[(2-methyl-2-phenyl-propionylamino)-methyl]-pyrrolidin-3-ylmethyl}-benzamide | C(C)(C)N(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C[C@@H]1CNC[C@H]1CNC(C(C)(C1=CC=CC=C1)C)=O | C31H45N3O5
